US04487781
25.8 g of methyl acrylate were added dropwise to a mixture of 16.8 g of propargyl alcohol and 0.1 g of sodium methoxide maintained at 55°-60° C. The mixture was then heated at 80° C. for 4 hours, after which it was left to stand overnight. The mixture was then poured into ice-water and extracted with ethyl acetate. The extract was dried and then purified by distillation to give 25.8 g of methyl β-propargyloxypropionate, boiling at 80°-83° C./10 mmHg.

reactant | methyl acrylate | 25.8 g | C(C=C)(=O)OC | C4H6O2
reactant | propargyl alcohol | 16.8 g | C(C#C)O | C3H4O
catalyst | sodium methoxide | 0.1 g | C[O-].[Na+]
product | methyl β-propargyloxypropionate | 25.8 g | C(C#C)OCCC(=O)OC | C7H10O3
